US06599925B2
Following the procedure described in Step 4 of Example 6, ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate (1.85 g, 3.09 mmol) was hydrolyzed with potassium hydroxide (0.523 g, 9.32 mmol) in THF (20 mL) and water (20 mL). Crystallization from methylene chloride/hexane and drying at 78° C for 12 hours yielded 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid a bright yellow solid (1.35 g), mp 115-117° C. Mass spectrum (+ESI, [M+H]+) m/z 573; 1HNMR (500 MHz, DMSO-d6): δ13.2-13.5 (br s, 1H), 8.45 (d, 1H, J=1.5 Hz), 8.2 (d, 1H, J=8.9 Hz), 8.1 (d, 1H, J=9.2 Hz), 8.05 (dd, 1H, J=7.7 Hz and 0.7 Hz), 8.0 (dd, 1H, J=8.9 Hz and 1.7 Hz), 7.75 (d, 1H, J=7.8 Hz), 7.4-7.45 (m, 6H), 7.3 (t, 2H, J=7.6 Hz), 7.25 (t, 1H, J=7.4 Hz), 5.35-5.4 (m, 1H), 2.75 (t, 2H, J=7.3 Hz), 1.5-1.6 (m, 2H), 1.1-1.2 (m, 2H), and 0.7 ppm (t, 3H, J=7.4 Hz). Elemental Analysis for C32H27BrO5.0.10H2O: Calculated: C, 67.05; H, 4.78; N, 0.00. Found: C, 66.69; H, 4.38; N, 0.02.

reactant | ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 3.09 mmol, 1.85 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OC(C(=O)OCC)CC2=CC=CC=C2 | C34H31BrO5
reactant | potassium hydroxide | 9.32 mmol, 0.523 g | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OC(C(=O)O)CC2=CC=CC=C2 | C32H27BrO5
